US07666888B2
4-{[3-(2-Chlorobenzyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and 3-(2-chlorobenzyl)pyrrolidine oxalate (17.1 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (9.2 mg). Calcd for C22H18ClF3N2O2: 434.1009, found 434.1000.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | 3-(2-chlorobenzyl)pyrrolidine oxalate | 0.060 mmol, 17.1 mg | C(C(=O)O)(=O)O.ClC1=C(CC2CNCC2)C=CC=C1
product | 4-{[3-(2-Chlorobenzyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole | ClC1=C(CC2CN(CC2)C(=O)C=2C=NOC2C2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | C22H18ClF3N2O2
